US07091222B2
Step 3: (Z)-2-Acetylamino-3-cyclopropylamino-but-2-enoic acid ethyl ester
(Z)-2-Acetylamino-3-dimethylamino-but-2-enoic acid ethyl ester (4.3 g, 20 mmol) and cyclopropylamine (1.14 g, 20 mmol) were stirred at room temperature in acetic acid (40 ml) for 2 hrs. The reaction mixture was diluted slowly with 30 ml of water and evaporated under vacuum at 35° C. Water (30 ml) was added to the residue and evaporated again at 35° C. The same procedure was repeated twice with toluene (30 ml each) to obtain the desired crude product as a dark brown oil [MS: m/e=227.4 (M+H+)], which could be used without any further purification for the next step.

reactant | (Z)-2-Acetylamino-3-dimethylamino-but-2-enoic acid ethyl ester | 20 mmol, 4.3 g | C(C)OC(/C(=C(\C)/N(C)C)/NC(C)=O)=O | C10H18N2O3
reactant | cyclopropylamine | 20 mmol, 1.14 g | C1(CC1)N | C3H7N
solvent | acetic acid | 40 ml | C(C)(=O)O | C2H4O2
solvent | water | 30 ml | O | H2O
product | (Z)-2-Acetylamino-3-cyclopropylamino-but-2-enoic acid ethyl ester | C(C)OC(/C(=C(\C)/NC1CC1)/NC(C)=O)=O | C11H18N2O3
